US08022222B2
Step E: Preparation of 4-(benzyloxy)-5-bromo-N-(4-phenethylthiazol-2-yl)pyridin-2-amine:
A flask was charged with 1-(4-(benzyloxy)-5-bromopyridin-2-yl)thiourea (2.34 g, 6.92 mmol), 1-bromo-4-phenylbutan-2-one (1.65 g, 7.26 mmol), and triethylamine (1.93 ml, 13.8 mmol). Ethanol (100 mL) was added and the reaction was stirred at 75° C. for 8 hours. The reaction was cooled and filtered, and the collected solids were washed with water to give the desired product (2.54 g, 77.9% yield) as a white solid.

reactant | 1-(4-(benzyloxy)-5-bromopyridin-2-yl)thiourea | 6.92 mmol, 2.34 g | C(C1=CC=CC=C1)OC1=CC(=NC=C1Br)NC(=S)N | C13H12BrN3OS
reactant | 1-bromo-4-phenylbutan-2-one | 7.26 mmol, 1.65 g | BrCC(CCC1=CC=CC=C1)=O | C10H11BrO
reactant | triethylamine | 13.8 mmol, 1.93 ml | C(C)N(CC)CC | C6H15N
solvent | Ethanol | 100 mL | C(C)O | C2H6O
product | 4-(benzyloxy)-5-bromo-N-(4-phenethylthiazol-2-yl)pyridin-2-amine | 2.54 g, 77.9% yield | C(C1=CC=CC=C1)OC1=CC(=NC=C1Br)NC=1SC=C(N1)CCC1=CC=CC=C1 | C23H20BrN3OS
